US05219871
Preparation of 2,2-diphenyl-5-[N-(4-fluorophenethyl)-N-methylamino]-5-methylhexanamide
A mixture containing 2,2-diphenyl-5-methyl-5-methylaminohexanamide (0.31 g-see Preparation 13), 4-fluorophenethyl bromide (0.2 g), anhydrous potassium carbonate (0.5 g) and acetonitrile (15 ml) was heated under reflux for 5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (20 ml), the layers separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.1 g.

reactant | 2,2-diphenyl-5-methyl-5-methylaminohexanamide | 0.31 g | C1(=CC=CC=C1)C(C(=O)N)(CCC(C)(NC)C)C1=CC=CC=C1 | C20H26N2O
reactant | 4-fluorophenethyl bromide | 0.2 g | FC1=CC=C(CCBr)C=C1 | C8H8BrF
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(4-fluorophenethyl)-N-methylamino]-5-methylhexanamide | C1(=CC=CC=C1)C(C(=O)N)(CCC(C)(C)N(C)CCC1=CC=C(C=C1)F)C1=CC=CC=C1 | C28H33FN2O
